US06110933
To a suspended solution of (S)-3-hydroxyhexadecanamide (3.45 g) and (S)-5-benzyloxycarbonyl-2-(tertiarybutoxycarbonylamino)pentanoic acid (4.50 g) in dichloromethane (150 ml) were added benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (5.66 g) and 4-dimethylaminopyridine (3.13 g). The mixture was stirred overnight. The precipitates were filtered off, and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethyl acetate (150 ml) and washed with 1N hydrochloric acid (100 ml×3), water (100 ml), saturated sodium bicarbonate (100 ml×2), and brine (100 ml). Then, the solution was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was chromatographed on a silica gel column to give (3S)-3-[(2S)-5-benzyloxycarbonyl-2-(tertiarybutoxycarbonylamino)-pentanoyl]oxyhexadecanamide (3.85 g).

reactant | (S)-3-hydroxyhexadecanamide | 3.45 g | O[C@H](CC(=O)N)CCCCCCCCCCCCC | C16H33NO2
reactant | (S)-5-benzyloxycarbonyl-2-(tertiarybutoxycarbonylamino)pentanoic acid | 4.50 g | C(C1=CC=CC=C1)OC(=O)CCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C18H25NO6
reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 5.66 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 3.13 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (3S)-3-[(2S)-5-benzyloxycarbonyl-2-(tertiarybutoxycarbonylamino)-pentanoyl]oxyhexadecanamide | 3.85 g | C(C1=CC=CC=C1)OC(=O)CCC[C@@H](C(=O)O[C@H](CC(=O)N)CCCCCCCCCCCCC)NC(=O)OC(C)(C)C | C34H56N2O7
